Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
hematemesis
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
HPI: Mr. ___ is a ___ year-old man with no significant past
medical history, who presents with hematemesis.

The patient states that at around 0030 he had onset of dizziness
that he describes as lightheadedness. 30 minutes later he
describes pain in his left upper quadrant and vomiting. It was
initially food contents, but then changed. Also endorses some
shortness of breath associated with this but denies chest pain.
He denies history of alcohol abuse, drug use, or liver disease.
Also denies significant NSAID use. The patient states that he 
has
never had these symptoms before. He does note that he was at a
basketball game a couple of weeks ago and had his BP checked and
it was significantly elevated in the 190s. He was supposed to 
see
his PCP ___ ___ to discuss this.

In the ED, 
- Initial Vitals: T 95.5, HR 80, BP 216/129, RR 14, O2 sat 98% 
RA

- Exam: Emesis very guaiac positive. Lethargic. arousable to
voice. normal finger to nose. Normal strength in all 
extremities.
Rectal exam: guaiac neg brown stool.

- Labs: WBC 7.9, Hgb 12.7, serum and urine tox negative, LFTs
wnl, Cr 1.3, troponin <0.01, UA bland, lactate 2.5

- Imaging: 
CXR- 1. No evidence of pneumonia.
2. Minimal apparent widened appearance of the mediastinum is
likely positional. This can be confirmed with repeat PA and
lateral views of the chest if clinically indicated.

RUQUS- Normal abdominal ultrasound.

NCHCT- No acute intracranial abnormality.

- Consults: GI preliminary recs
 - monitor hemodynamics, resuscitate 
 - trend H&H, keep type and crossed
 - transfuse for Hgb <7
 - IV BID PPI
 - IV reglan 5mg if QTC will tolerate
 - low threshold to intubate if recurrent bloody emesis
 - NPO
 - GI to determine in AM timing of EGD
 - large IV x2
 - please page for any hemodynamic instability, recurrent
hemetemesis, or other clinical concerns
 - agree with symptomatic treatment with antinausea meds

- Interventions: Patient was given Zofran and Ativan for nausea.
IV pantoprazole x1. Given 2L IVF.

ROS: Positives as per HPI; otherwise negative.

 
Past Medical History:
Prior to this hospitalization: none known.
.
.
**New Diagnoses this hospitalization**
-HTN with hypertensive nephropathy, LVH on ECG, and probable 
hypertensive microangiopathy on MRI brain
-CKD
-UGIB w/ hematemesis

 
Social History:
___
Family History:
Hypertension
Diabetes
Cancer

 
Physical Exam:
ADMISSION PHYSICAL EXAM
=======================
VS: T 98.4, HR 63, BP 154/93, RR 15, O2 sat 100% on RA
GEN: tired-appearing man, in no acute distress
EYES: no conjunctival pallor, anicteric sclerae
HENNT: moist mucous membranes
CV: Regular rate and rhythm, normal s1/s2, no murmurs, rubs,
gallops
RESP: Clear to auscultation bilaterally, no wheezes, rales, or
rhonchi
GI: Soft, non-tender, non-distended, normal bowel sounds
SKIN: warm, dry, no rashes or other lesions
NEURO: A&Ox3, moving all 4 extremities with purpose, remainder 
of
neuro exam limited by fatigue

DISCHARGE PHYSICAL EXAM
=======================
Gen: NAD
Eyes: no nystagmus at rest, no nystagmus with sitting up, no 
nystagmus with ___ to left and to right; endorsed 
"dizziness" was more consistent with "lightheadedness" and not 
"room-spinning"
HEENT: MMM
Cards: RR, no m/r/g, 2+ distal pulses, no peripheral edema
Resp: CTAB, nl WOB
Neuro: awake, alert, conversant with clear speech, stable gait, 
moving all 4s with normal coordination and no tremor
Psych: calm, flat affect
 
Pertinent Results:
ADMISSION LABS: 
===============

___ 02:00AM BLOOD WBC-7.9 RBC-4.66 Hgb-12.7* Hct-38.3* 
MCV-82 MCH-27.3 MCHC-33.2 RDW-13.6 RDWSD-40.4 Plt ___
___ 02:00AM BLOOD Neuts-54.8 ___ Monos-7.9 Eos-1.0 
Baso-0.4 Im ___ AbsNeut-4.34 AbsLymp-2.80 AbsMono-0.63 
AbsEos-0.08 AbsBaso-0.03
___ 02:00AM BLOOD ___ PTT-20.3* ___
___ 02:00AM BLOOD Glucose-180* UreaN-11 Creat-1.3* Na-141 
K-4.1 Cl-103 HCO3-22 AnGap-16
___ 02:00AM BLOOD ALT-21 AST-35 AlkPhos-66 TotBili-0.2
___ 02:00AM BLOOD Lipase-20
___ 02:00AM BLOOD cTropnT-<0.01
___ 10:20AM BLOOD CK-MB-5 cTropnT-<0.01
___ 02:00AM BLOOD Albumin-4.2 Mg-1.9
___ 02:32AM BLOOD Lactate-2.5*
___ 02:08PM BLOOD Lactate-1.5
___ 02:08PM BLOOD ___ Temp-36.7 pO2-58* pCO2-48* 
pH-7.37 calTCO2-29 Base XS-1

PERTINENT LABS: 
===============
___ 01:10AM BLOOD Free T4-0.9*
___ 01:10AM BLOOD TSH-0.48

IMAGING:
========

CXR A/P: 
1. No evidence of pneumonia. 
2. Minimal apparent widened appearance of the mediastinum is 
likely 
positional.  This can be confirmed with repeat PA and lateral 
views of the 
chest if clinically indicated. 

RUQ U/S: 
 
Normal abdominal ultrasound. 

CT HEAD W/O CONTRAST: 

No acute intracranial abnormality.  Hypodensity in the white 
matter could be due to small vessel disease but somewhat unusual 
for patient's age.  A non-emergent MRI can be obtained for 
further evaluation unless there are prior studies available to 
determine stability. 

MR HEAD W/ & W/O:

1. Subcortical and periventricular T2 hyperintensities are 
nonspecific.  
Additionally, microhemorrhages are seen in the bilateral deep 
gray nuclei. These findings raise the possibility of 
hypertension related microangiopathy.   
2. No intracranial hemorrhage or acute infarct. 
3. No enhancing brain lesions. 
  

 
Brief Hospital Course:
# Hematemesis
# UGIB
Patient presented to the ED with hematemesis in the setting of 
lightheadedness. Ddx for hematemesis was quite broad and 
included ___ tear, PUD, esophagitis, gastritis, 
duodenitis, complications of portal HTN such as varices, 
vascular lesions (angiodysplasia, Dieulafoy's), traumatic, 
iatrogenic, malignancy of UGI tract. Pt endorsed preceding left 
upper quadrant abdominal pain, which would be c/w PUD, 
esophagitis, or with a traumatic etiology such as a 
___ tear, but denied a history of liver disease 
(making portal HTN and its sequalae less likely). Of note, he 
denied a hx of NSAID use, anti-platelet agents, anti-coagulants, 
or pills
that are associated with pill esophagitis. There was also 
concern for emesis related to significant hypertension and a 
posterior circulation stroke syndrome, prompting MRI and CT scan 
with no evidence of stroke. Low for lower GI bleed as stool 
guaiac negative. Patient was placed on IV PPI BID, given 
ondansetron and Ativan for nausea, made NPO, resuscitated with 
IVF, and sent to the ICU, with initial plan for EGD and close 
monitoring. No additional episodes of hematemesis in the unit, 
with stable H&H, stable vital signs excepting HTN as below, and 
tolerating diet. Given improvement, GI recommending outpatient 
endoscopy/colonoscopy and patient called out to the floor. Did 
well on the floor with no recurrent bleeding and no melena.  
Advised that he schedule GI apt for follow-up within the next 
___ weeks. He was discharged on pantoprazole 40 mg daily x4 
weeks per GI recs.

# Hypertension
Pt presented hypertensive to BP 216/129 (HR 80) and was 168/98 
(HR 54) within a few hours with fluids, lorazepam. No 
anti-hypertensives administered. Initial concern for possible 
acute increase in BP leading to posterior stroke syndrome, but 
no evidence of stroke on CT, MRI. It is likely that the patient 
has chronic hypertension given his LVH on ECG. We initiated 
amlodipine inpatient, starting 5 mg daily with good response in 
BP. Orthostatics were performed and patient was without 
orthostatic hypotension, but did have substantial orthostatic 
tachycardia and was symptomatic. Over time his symptoms of 
orthostatic lightheadedness substantially improved, though had 
not ___ resolved prior to discharge.  Ultimately he had a good 
response to amlodipine and it was increased from 5 to 10 mg on 
discharge. Counseled him to purchase BP monitor for home use, 
check BP twice daily (AM & ___, log results, bring log to PCP at 
next appointment.  Given that he is already having evidence of 
end-organ damage from uncontrolled HTN, this is the most 
important follow-up issue at his upcoming PCP ___.  He 
said he plans to establish care with a PCP, we encouraged him to 
do so within 2 weeks.

# Elevated creatinine: probable CKD
Pt noted to have Cr of 1.3. Prior Cr in the low to mid-1s, so 
likely CKD in the setting of chronic hypertension. Particularly 
given LVH on ECG and evidence of hypertensive microangiopathy on 
MRI brain. 
.
.
.
.
Time in care: >30 minutes in discharge-related activities today.
 
Medications on Admission:
None
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Upper GI bleed with hematemesis
Lightheadedness/Dizziness
Hypertension
Probable CKD

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Mr. ___,

You were admitted to the hospital with abrupt onset of 
dizziness, vomiting, and vomiting of blood.  The vomiting and 
bleeding in your upper GI tract fortunately stopped without 
requiring any major interventions.  You were started on a new 
medication, called pantoprazole, to decrease your risk of having 
a recurrent bleed, please continue to take this once daily ___ 
minutes before eating a meal, for the next 4 weeks.

You were also found to have severely elevated blood pressure 
("hypertension").  This improved with starting a new medication, 
which you should continue, called amlodipine ("Norvasc").

Please plan to see your primary care physician in the next ___ 
weeks to follow-up on this hospitalization and to have your 
blood pressure rechecked.  In addition, we would recommend that 
you invest in a blood pressure machine for home use.  Consider 
purchasing one at your grocery store or pharmacy, be sure to 
choose one that is FDA approved, as these machines will be 
accurate and reliable.  Good machines typically don't cost more 
than $35.  As we discussed, please check your blood pressure 
once each morning and once each evening, write them down in a 
log, and bring the log to your appointment with your primary 
care doctor.

Regarding your dizziness (lightheadedness), we suspect this will 
completely go away over the next couple of days.  However, if 
you continue to have the sensation of dizziness with turning 
your head, we would recommend that you ask your primary care 
physician to refer you to have a *vestibular* physical therapy 
evaluation.

Please plan to follow-up with our GI physicians in the next ___ 
weeks to follow-up on this GI bleed you had.

It was a pleasure caring for you while you were in the hospital 
and we wish you the best.

Sincerely,
Your ___ Medicine Team
 
Followup Instructions:
___